US07622469B2
2,4-Diamino-1,6-dihydro-6-nonyl-1-(4′-trifluoromethoxyphenyl)-1,3,5-triazine hydrochloride
100 ml of ethanol, 4.7 ml (25.1 mmol) of 1-decanal and 0.7 ml of concentrated hydrochloric acid were added to 5.0 g (16.8 mmol) of N1-(4-trifluoromethoxyphenyl)-biguanide hydrochloride, and the mixture was refluxed for 16 hours. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (elution with a mixture of chloroform and methanol (8:1.5)), and recrystallized from 80% ethanol to obtain 1.1 g of colorless crystals having a melting point of 213 to 215° C.

reactant | 1-decanal | 25.1 mmol, 4.7 ml | C(CCCCCCCCC)=O | C10H20O
reactant | hydrochloric acid | 0.7 ml | Cl | ClH
reactant | N1-(4-trifluoromethoxyphenyl)-biguanide hydrochloride | 16.8 mmol, 5.0 g | Cl.FC(OC1=CC=C(C=C1)NC(=N)NC(=N)N)(F)F
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,4-Diamino-1,6-dihydro-6-nonyl-1-(4′-trifluoromethoxyphenyl)-1,3,5-triazine hydrochloride | 1.1 g | Cl.NC=1N(C(N=C(N1)N)CCCCCCCCC)C1=CC=C(C=C1)OC(F)(F)F | InChI=1S/C19H28F3N5O.ClH/c1-2-3-4-5-6-7-8-9-16-25-17(23)26-18(24)27(16)14-10-12-15(13-11-14)28-19(20,21)22;/h10-13,16H,2-9H2,1H3,(H4,23,24,25,26);1H
